### PR TITLE
[Merged by Bors] - feat(RingTheory/Presentation): naive presentations of quotients

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Extension/Generators.lean [hunk 1]
```diff
@@ -490,6 +518,11 @@ lemma ker_eq_ker_aeval_val : P.ker = RingHom.ker (aeval P.val) := by
 variable {P} in
 lemma aeval_val_eq_zero {x} (hx : x ∈ P.ker) : aeval P.val x = 0 := by rwa [← algebraMap_apply]
 
+lemma naive_ker {σ : Type*} {I : Ideal (MvPolynomial σ R)}
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Generators.lean]:
```suggestion
lemma ker_naive {σ : Type*} {I : Ideal (MvPolynomial σ R)}
```

File: Mathlib/RingTheory/Extension/Presentation/Basic.lean [hunk 2]
```diff
@@ -463,6 +463,34 @@ lemma dimension_reindex (P : Presentation R S ι σ) {ι' σ' : Type*} (e : ι'
     (P.reindex e f).dimension = P.dimension := by
   simp [dimension, Nat.card_congr e, Nat.card_congr f]
 
+section
+
+variable {v : ι → MvPolynomial σ R}
+  (s : MvPolynomial σ R ⧸ (Ideal.span <| Set.range v) → MvPolynomial σ R :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Basic.lean:469]: Do you want `MvPolynomial σ R ⧸ I` with `hI : I = .span (Set.range v)` instead? Or is this extra flexibility not useful?

File: Mathlib/RingTheory/Extension/Presentation/Basic.lean [hunk 3]
```diff
@@ -463,6 +463,34 @@ lemma dimension_reindex (P : Presentation R S ι σ) {ι' σ' : Type*} (e : ι'
...
+      Function.surjInv Ideal.Quotient.mk_surjective)
+    (hs : ∀ x, Ideal.Quotient.mk _ (s x) = x := by apply Function.surjInv_eq) :
+    Presentation R (MvPolynomial σ R ⧸ (Ideal.span <| Set.range v)) σ ι where
+  __ := Generators.naive s hs
+  relation := v
+  span_range_relation_eq_ker := (Generators.naive_ker s hs).symm
+
+lemma naive_relation : (naive s hs).relation = v := rfl
+
+@[simp] lemma naive_relation_apply (i) : (naive s hs).relation i = v i := rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Basic.lean]:
```suggestion
@[simp] lemma naive_relation_apply (i : ι) : (naive s hs).relation i = v i := rfl
```

File: Mathlib/RingTheory/Extension/Presentation/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Presentation/Basic.lean:469]: I don't have an application of the more flexible version, I think this is really supposed to be used in concrete examples or constructions, where `I` will always be def-eq to `Ideal.span _`.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Review by adamtopaz — COMMENTED** [review]
bors r+
